US05965756
1d) Preparation of N-(1,1-dimethylethyl)-1,1-dimethyl-1-(1,5,6,7-tetrahydro-2-methyl-s-indacen-1-yl)silanamine
(1,5,6,7-tetrahydro-2-methyl-s-indacen-1-yl) lithium (25.0 g, 0.1419 moles) in THF (200 mL) was added dropwise to a solution of dimethylsilyl(t-butylamino)chloride (23.518 g, 0.1419 moles) in THF (250 mL) over a 1 hour period of time. This mixture was then allowed to stir for 20 hours. After the reaction period the volatiles were removed and the residue extracted and filtered using hexane. Removal of the hexane resulted in the isolation of the desired product as a red-yellow oil (37.55 g, 88.0 percent).

reactant | (1,5,6,7-tetrahydro-2-methyl-s-indacen-1-yl) lithium | 0.1419 moles, 25.0 g | CC=1C(C2=CC=3CCCC3C=C2C1)[Li]
reactant | dimethylsilyl(t-butylamino)chloride | 0.1419 moles, 23.518 g | C[SiH](C)N(C(C)(C)C)Cl | C6H16ClNSi
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | N-(1,1-dimethylethyl)-1,1-dimethyl-1-(1,5,6,7-tetrahydro-2-methyl-s-indacen-1-yl)silanamine | 37.55 g, 88.0 percent | CC(C)(C)N[Si](C1C(=CC2=CC=3CCCC3C=C12)C)(C)C | C19H29NSi
